US08609698B2
N-[(6-Hydrazinopyridin-3-yl)methyl]-2-methoxyethanamine
3.6 g (17.7 mmol) of N-[(6-chloropyridin-3-yl)methyl]-2-methoxyethanamine [prepared analogously to WO 2004/081007] are initially charged in 4.3 ml (4.4 g, 88.5 mmol) of hydrazine hydrate and stirred at boiling point at a bath temperature of 150° C. for 16 h. The reaction solution is cooled and concentrated, and the residue is purified by column chromatography on silica gel (mobile phase: acetonitrile/water 9:1).

reactant | N-[(6-chloropyridin-3-yl)methyl]-2-methoxyethanamine | 17.7 mmol, 3.6 g | ClC1=CC=C(C=N1)CNCCOC | C9H13ClN2O
reactant | hydrazine hydrate | 88.5 mmol, 4.3 ml, 4.4 g | O.NN
product | N-[(6-Hydrazinopyridin-3-yl)methyl]-2-methoxyethanamine | N(N)C1=CC=C(C=N1)CNCCOC | C9H16N4O
